US07041672B2
Preparation of 5-(2,4-dimethoxyphenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[5-(2,4-dimethoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a white solid, m.p. 120–121° C. (uncorrected). IR (diffuse reflectance) 2965, 2935, 1615, 1566, 1480, 1390, 1305, 1256, 1215, 1209, 1183, 1165, 1040, 825, 747 cm−1; OAMS supporting ions at: ESI+ 448.1; MS (EI) m/z 447 (M+); HRMS (FAB) calcd for C27H33N3O3+H1 448.2600, found 448.2600. Anal. Calcd for C27H33N3O3: C, 72.46; H, 7.43; N, 9.39. Found: C, 72.46; H, 7.59; N, 9.39.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[5-(2,4-dimethoxyphenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | COC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C25H29N3O3
product | 5-(2,4-dimethoxyphenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | COC1=C(C=CC(=C1)OC)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C27H33N3O3
